US04025538
Preparation of 3,5-Dinitro-4-chloro-o-toluonitrile
A finely powdered mixture of 15.5 grams (0.051 mole) of 3,5-dinitro-4-chloro-o-toluamide is heated with 12 grams (0.084 mole) of phosphorus pentoxide for 15 minutes at 300° C. to 350° C. The resulting nitrile is distilled from the reaction flask. Recrystallization of the solidified product from methanol gives the desired product as an analytically pure material.

reactant | 3,5-dinitro-4-chloro-o-toluamide | 0.051 mole, 15.5 grams | [N+](=O)([O-])C1=C(C(=CC(=C1Cl)[N+](=O)[O-])C)C(=O)N | C8H6ClN3O5
reactant | phosphorus pentoxide | 0.084 mole, 12 grams | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 3,5-Dinitro-4-chloro-o-toluonitrile | [N+](=O)([O-])C1=C(C(=CC(=C1Cl)[N+](=O)[O-])C)C#N | C8H4ClN3O4
